data/mechanism_extracts/GreenChem/10.1039_D2GC04399H_sup_1.json
{"doi": "10.1039_D2GC04399H_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical 1,2-diacyloxylation of styrenes with carboxylic acids to give vicinal diesters in acetone with nBu4NOAc electrolyte", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation generates carboxyl/styrene-derived radical species; carboxylate is oxidized at the anode and the styrene is converted via radical addition/oxidation to a benzylic cation that is trapped by carboxylate", "key_intermediates": [{"name": "styrene-derived benzylic radical/cation after carboxyl radical addition", "smiles": null, "role": "reactive"}, {"name": "acyloxy radical from anodic oxidation of carboxylate", "smiles": null, "role": "reactive"}, {"name": "hydroxy ester by-product (32, 33) from water/hydroxide trapping", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes the carboxylate (1b) to an acyloxy radical that adds to the styrene (1a) giving a benzylic radical; further anodic oxidation yields a benzylic cation trapped by a second carboxylate to deliver the 1,2-diester, with cathodic H2 evolution balancing charge.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["EPR", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Page shows solvent/co-solvent screen (acetone best, 72%; MIBK, cyclopentanone, diethyl carbonate alone fail due to voltage overload or no reaction; aqueous co-solvent suppresses yield, consistent with hydroxy ester by-products 32 and 33). Mechanistic section indicates EPR experiments were performed but spectra/details are not on this page."}
